US04665057
The method of Pfander and Laederach [H. Pfander and M. Laederach, Carbohyd. Res. 99(2), 175-79 (1982)] was used. 1-Hexanoylimidazole was prepared by stirring 2 equivalents of imidazole with 1 equivalent hexanoyl chloride in toluene solution. The mixture was filtered and concentrated to a low-melting solid. This product, 1-hexanoylimidazole, was further purified by distillation.

reactant | imidazole | 2 equivalents | N1C=NC=C1 | C3H4N2
reactant | hexanoyl chloride | 1 equivalent | C(CCCCC)(=O)Cl | C6H11ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-Hexanoylimidazole | C(CCCCC)(=O)N1C=NC=C1 | C9H14N2O
